US07511066B2
A. 2-Amino-N-(5-chloropyridin-2-yl)pyridine-3-carboxamide Hydrochloride
To a stirring suspension of 2-aminonicotinic acid (26.9 g, 194 mmol) in dichloromethane (120 mL) at 0° C., was added DMF (a few drops), followed by oxalyl chloride (20 mL, 194 mmol). The cold bath was removed, and the solution was allowed to stir for 60 min at room temperature. This solution was then transferred via cannula into a stirring solution of 2-amino-5-chloropyridine (25 g, 194 mmol) and pyridine (78 mL, 970 mmol) in dichloromethane (100 mL). After stirring overnight, the precipitate was filtered and dried to give 32.8 g of solid. The crude product was recrystallized from ethanol with activated charcoal to give the amide (12.4 g, 23%) as a white solid.

reactant | 2-aminonicotinic acid | 194 mmol, 26.9 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | oxalyl chloride | 194 mmol, 20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-5-chloropyridine | 194 mmol, 25 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | pyridine | 970 mmol, 78 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Amino-N-(5-chloropyridin-2-yl)pyridine-3-carboxamide Hydrochloride | 32.8 g | Cl.NC1=NC=CC=C1C(=O)NC1=NC=C(C=C1)Cl | InChI=1S/C11H9ClN4O.ClH/c12-7-3-4-9(15-6-7)16-11(17)8-2-1-5-14-10(8)13;/h1-6H,(H2,13,14)(H,15,16,17);1H
